US06037495
Synthesis of (E)-2-methoxyimino-2-(2-(2,5-dimethylphenoxymethyl)phenyl)-N-methylacetamide--(1)
A mixture of (E)-2-(2-chloromethylphenyl)-2-methoxyimino-N-methylacetamide (500 mg), 2,5-dimethylphenol (700 mg), potassium carbonate (700 mg), potassium iodide (500 mg) and acetone (5.0 ml) was heated under reflux with stirring for 6 hours. After the mixture was cooled by allowing it to stand, ethyl acetate was added to the reaction mixture. The mixture was washed successively with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The resulting residue was subjected to column chromatography on silica gel (ethyl acetate:hexane=2:1) to obtain the title compound (530 mg, 78%). This compound was crystallized from diethyl ether-hexane to obtain the title compound as crystals (430 mg, 63%).

reactant | (E)-2-(2-chloromethylphenyl)-2-methoxyimino-N-methylacetamide | 500 mg | ClCC1=C(C=CC=C1)\C(\C(=O)NC)=N/OC | C11H13ClN2O2
reactant | 2,5-dimethylphenol | 700 mg | CC1=C(C=C(C=C1)C)O | C8H10O
reactant | potassium carbonate | 700 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 500 mg | [I-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 5.0 ml | CC(=O)C | C3H6O
product | (E)-2-methoxyimino-2-(2-(2,5-dimethylphenoxymethyl)phenyl)-N-methylacetamide | 530 mg, 78% | CO\N=C(\C(=O)NC)/C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C | C19H22N2O3
